US20010041803A1
10-Deacetyl Baccatin III (10-DAB III)
Hydrazine monohydrate was added to a solution of 13-Acetyl baccatin III (1000 mg, 2.56 mmol) in 95% ethanol and the mixture stirred at room temperature for 8 hours. Excess ethyl acetate (200 ml) added and the mixture was extracted with water (150 ml), brine (150 ml), and Water (150 ml). The organic layer was dried (anhydrous MgSO4) and concentrated to dryness. The final compound was purified by flash column ethyl acetate/hexane 4:1 to yield 860.5 mg, 85%. 1H NMR (deuterated acetone) d 8.12 (m, ortho —H), 8.01 (m, para-H), 7.56 (m, meta-H), 5.65 (d, J=7.04 Hz, C-2), 5.27 (s, H-10), 4.96 (dd, J=2.09, 9.58 Hz, C-13), 4.55 (d, J=4.63 Hz, H-5), 4.23 (m, C-7), 4.13 (d, J=7.38 Hz, H-14α), 4.04 (d, J=7.04 Hz, H-14β), 4.16 (s, OH), 2.83 (s, OH), 2.49 (m, 2H, C-14), 2.33 (m, 1H, H-6α), 1.83 (m, 1H, H-6β), 2.08 (s, 3H, C-4-OCOCH3), 2.26 (s, OH), 2.05 (s, H-18), 1.71 (s, H-19), 1.10 (s, 3H, H-16), 1.10 (s, H-17); 13C NMR (deuterated acetone) d, 10.37 (C-19), 15.78 (C-18), 20.69 (C-17), 22.79 (C-16), 27.3 (C-4), 37.79 (C-14), 40.95 (C-15), 43.76 (C-8), 48.14 (C-3), 68.02 (C-13), 72.66 (C-10), 75.88 (C-2), 76.15 (C-20), 76.93 (C-9), 78.70 (C-1), 80.53 (C-4), 85.18 (C-5), 129.46 (meta C), 130.86 (ortho C), 134.04 (para C), 1135.76 (C-11), 143 (C-12), 170.87 (C-10), 206 (C-9)

reactant | Hydrazine monohydrate | O.NN
reactant | 13-Acetyl baccatin III | 2.56 mmol, 1000 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O)C)OC(=O)C | C33H40O12
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 10-Deacetyl Baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
